US04085272
Preparation of 1-propargyl-1-hydroxycyclohexane
A stirred suspension of 121.6 g (5.0 mol) of magnesium in 1-1. of anhydrous ether is treated with 0.6 g of mercuric chloride and about 100 mg of iodine. After several minutes, 3 ml of propargyl bromide is added and if no exotherm is noted, a small amount of reacting propargyl bromide and magnesium in ether is added. When the reaction begins, a mixture of 5.0 mol of cyclohexanone and 595 g (5.0 mol) of propargyl bromide is added dropwise at a rate that produces vigorous refluxing of the solution. (The propargyl bromide must always be present in some excess otherwise the reaction will stop. If this happens, the addition of about 1 ml of propargyl bromide will restart the reaction.) After about half of the propargyl bromide-cyclohexanone mixture has been added, another 500-750 ml of ether is used to dilute the reaction mixture. At the end of the addition, the reaction mixture is refluxed for at least 0.5 hour, cooled and poured into 4 liters of saturated ammonium chloride during good stirring. The ethereal layer is separated and the aqueous layer is washed with ether several times and the combined extract is washed twice with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. Evaporation of the ether yields 583 g (630 g theory) of a dark oil which is distilled giving purified 1-propargyl-1-hydroxycyclohexane.

reactant | magnesium | 5.0 mol, 121.6 g | [Mg] | Mg
reactant | iodine | about 100 mg | II | I2
reactant | propargyl bromide | 3 ml | C(C#C)Br | C3H3Br
reactant | cyclohexanone | 5.0 mol | C1(CCCCC1)=O | C6H10O
reactant | propargyl bromide | 5.0 mol, 595 g | C(C#C)Br | C3H3Br
reactant | propargyl bromide | about 1 ml | C(C#C)Br | C3H3Br
reactant | propargyl bromide cyclohexanone | C(C#C)Br.C1(CCCCC1)=O
reactant | ammonium chloride | 4 liters | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | ether | 500-750 ml | CCOCC | C4H10O
product | 1-propargyl-1-hydroxycyclohexane | C(C#C)C1(CCCCC1)O | C9H14O
